US07227035B2
Synthesis of N-(2-benzoyl-4-chloro-phenyl)-3,4-dichloro-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 115 mg of (2-amino-5-chloro-phenyl)-phenyl-methanone and 123 mg of 3,4-Dichloro-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 7.25 (d, 1H, J=8.8 Hz), 7.36–39 (m, 3H), 7.43–47 (m, 3H), 7.53 (dd, 1H, J=8.8 Hz, 2.4 Hz), 7.61 (m, 1H), 7.65 (m, 1H), 7.73 (d, 1H, J=8.8 Hz), 9.56 (s, 1H). MS: m/z 440.7 (M++1).

reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | 115 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 3,4-Dichloro-benzenesulfonyl chloride | 123 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | N-(2-benzoyl-4-chloro-phenyl)-3,4-dichloro-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl | C19H12Cl3NO3S
